US04742165
5.8 g of metallic sodium was added to 300 ml of ethanol and they were reacted to obtain an ethanol solution containing sodium ethoxide. To this solution was added 62.2 g of ethyl N-ethoxycarbonylacetyl-3-ethylaminopropionate, and they were refluxed for 4 hours and allowed to cool. Ethanol was distilled off. Thereto were added ethyl acetate and a dilute aqueous hydrochloric acid solution and the resulting mixture was shaken. The organic layer was separated, water-washed, dried and concentrated to obtain 36.3 g of 3-carboethoxy-1-ethylpiperidine-2,4-dione as an oily matter with an yield of 71%.

reactant | sodium | 5.8 g | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl N-ethoxycarbonylacetyl-3-ethylaminopropionate | 62.2 g | C(C)OC(=O)CC(=O)N(CCC(=O)OCC)CC | C12H21NO5
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-carboethoxy-1-ethylpiperidine-2,4-dione | 36.3 g, yield of 71% | C(=O)(OCC)C1C(N(CCC1=O)CC)=O | C10H15NO4
